US04113729
(-)-3-Phenoxy-N-trichlorocarbethoxymorphinan
To a mixture of 2.3 g (0.007 mol) of (-)-3-phenoxy-N-methylmorphinan, 150 ml of benzene and 0.35 g of potassium carbonate was added dropwise, 3.3 g of 2,2,2-trichloroethyl chloroformate. The reaction mixture was stirred at reflux for 6 days. The mixture was diluted with ether and extracted with 4 N hydrochloric acid. The organic phase was washed with dilute ammonium hydroxide, water, and dried. Removal of solvent gave 3.4 g (99%) of the product (-)-3-phenoxy-N-trichlorocarbethoxymorphinan. For analysis, a sample of this compound was distilled, bp 230°-240°/0.05mmHg, [α]25D -119.65° (c 0.95, MeOH).

reactant | (-)-3-phenoxy-N-methylmorphinan | 0.007 mol, 2.3 g | O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C | C23H27NO
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trichloroethyl chloroformate | 3.3 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | ether | CCOCC | C4H10O
product | (-)-3-Phenoxy-N-trichlorocarbethoxymorphinan | 3.4 g, 99% | O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C(=O)OCC(Cl)(Cl)Cl | C25H26Cl3NO3
